US06544985B2
(RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester
The title compound was prepared from (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-benzoic acid methyl ester [prepared from (Z)-3-(hydroxyimino-methyl)-benzoic acid methyl ester [CAS-No. 91186-80-0] by treatment with NCS, cat. amount pyridine in CHCl3 followed by addition of (RS)-tetrahydro-2-(2-propynyloxy)-2H-pyran and slow addition of Et3N in CHCl3 at 23°C.] by treatment with lithium tert.-butyl acetate according to general procedure K (method b). Obtained as a yellow oil (3.00 g).

reactant | (RS)-3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O | C17H19NO5
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | (RS)-3-Oxo-3-{3-[5-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-3-yl]-phenyl}-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NOC(=C1)COC1OCCCC1)=O)=O | C22H27NO6
